US04052387
A solution of 0.29 g. of methyl 3-methyl-2-(2-chlorosulfinyl-4-oxo-3-phthalimido-1-azetidinyl)-3-butenoate in 10 ml. of trifluoroacetic acid was refluxed for 30 minutes and then was evaporated in vacuo to dryness. The product was dissolved in 20 ml. of ethyl acetate. The resulting solution was washed successively with aqueous sodium bicarbonate (3X), water, and brine, dried (MgSO4), and evaporated in vacuo to dryness to provide methyl 7-phthalimido-3-methylenecepham-4-carboxylate 1-oxide.

reactant | methyl 3-methyl-2-(2-chlorosulfinyl-4-oxo-3-phthalimido-1-azetidinyl)-3-butenoate | CC(C(C(=O)OC)N1C(C(C1=O)N1C(C=2C(C1=O)=CC=CC2)=O)S(=O)Cl)=C | C17H15ClN2O6S
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | methyl 7-phthalimido-3-methylenecepham-4-carboxylate 1-oxide | C1(C=2C(C(N1C1[C@@H]3N(C(C(CS3=O)=C)C(=O)OC)C1=O)=O)=CC=CC2)=O | C17H14N2O6S
